US04201790
A mixture of 2-(2,3-epoxypropoxy)-4,4',6-trimethylbenzophenone (10 g.), t-butylamine (10 ml.) and dry methanol (50 ml.) was heated at reflux overnight. The mixture was evaporated in vacuo, and the residue was recrystallized from cyclohexane to give DL-1-t-butylamino-3-(3,5-dimethyl-2-p-toluoylphenoxy)-2-hydroxypropane (7 g.), m.p. 116°-118° C.

reactant | 2-(2,3-epoxypropoxy)-4,4',6-trimethylbenzophenone | 10 g | O1C(COC2=C(C(=O)C3=CC=C(C=C3)C)C(=CC(=C2)C)C)C1 | C19H20O3
reactant | t-butylamine | 10 ml | C(C)(C)(C)N | C4H11N
solvent | methanol | 50 ml | CO | CH4O
product | 1-t-butylamino-3-(3,5-dimethyl-2-p-toluoylphenoxy)-2-hydroxypropane | 7 g | C(C)(C)(C)NCC(COC1=C(C(=CC(=C1)C)C)C(=O)C1=CC=C(C=C1)C)O | C23H31NO3
